US08115006B2
1.52 g of 3-bromo-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylic acid was dissolved in 10 ml of chloroform, 0.55 ml of thionyl chloride was dropwise added, and 0.05 ml of DMF was added, followed by reflux for 30 minutes. After the reaction liquid was stood to cool, the solvent was distilled off under reduced pressure to obtain crude product of 3-bromo-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carbonyl chloride. A mixed solution comprising the above crude product and 5 ml of chloroform was dropwise added to a mixed solution comprising 0.85 g of 4-methoxybenzyl alcohol, 1.11 ml of triethylamine and 20 ml of chloroform under cooling with ice, followed by stirring for 5 minutes and reaction at room temperature for 1.5 hours. The reaction solvent was distilled off under reduced pressure, and 50 ml of water was added, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/0 to 3/1) to obtain 1.6 g of the desired product (melting point: 83° C.).

reactant | 3-bromo-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylic acid | 1.52 g | BrC1=NN(C(=C1)C(=O)O)C1=NC=CC=C1Cl | C9H5BrClN3O2
reactant | thionyl chloride | 0.55 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.05 ml | CN(C)C=O | C3H7NO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carbonyl chloride | BrC1=NN(C(=C1)C(=O)Cl)C1=NC=CC=C1Cl | C9H4BrCl2N3O
